US07205325B2
1-(4-{4-[2-(2-Benzo[1,3]dioxol-5-yl-vinyl)-oxazol-4-ylmethoxy]-phenyl}-butyl)-1H-[1,2,3]triazole
0.264 g (1.00 mmol) 2-(2-Benzo[1,3]dioxol-5-yl-vinyl)-4-chloromethyl-oxazole, 0.217 g 1.00 mmol) 4-(4-[1,2,3]Triazol-1-yl-butyl)-phenol, 0.166 g (1.00 mmol) potassium iodide and 0.191 ml (1.00 mmol) of a 30% sodium methylate solution were added to 50.0 ml methanol and heated to reflux for 8 h. After removal of solvent, partitioning of the residue between 50 ml ethyl acetate and 15 ml water, the organic phase was washed with 10 ml water, 10 ml 0.1 N NaOH, 15 ml water twice and dried over sodium sulphate. The solution was concentrated to a volume until crystallisation of the product started. After leaving for 1 h at room temperature the precipitate was filtered, washed with diethyl ether and dried at 40° C. in vacuo. Yield 0.17 g (38%) 4.

reactant | 2-(2-Benzo[1,3]dioxol-5-yl-vinyl)-4-chloromethyl-oxazole | 1.00 mmol, 0.264 g | O1COC2=C1C=CC(=C2)C=CC=2OC=C(N2)CCl | C13H10ClNO3
reactant | 4-(4-[1,2,3]Triazol-1-yl-butyl)-phenol | N1(N=NC=C1)CCCCC1=CC=C(C=C1)O | C12H15N3O
reactant | potassium iodide | 1.00 mmol, 0.166 g | [I-].[K+]
reactant | sodium methylate | C[O-].[Na+]
solvent | methanol | 50.0 ml | CO | CH4O
product | 1-(4-{4-[2-(2-Benzo[1,3]dioxol-5-yl-vinyl)-oxazol-4-ylmethoxy]-phenyl}-butyl)-1H-[1,2,3]triazole | O1COC2=C1C=CC(=C2)C=CC=2OC=C(N2)COC2=CC=C(C=C2)CCCCN2N=NC=C2 | C25H24N4O4
